US04849011
To 20 ml of tetrahydrofuran solution containing 0.69 g of m-chloroacetophenone was added 1.1 g of potassium t-butoxide at room temperature, followed by stirring for 30 minutes. Further, 1 g of 3,3-bis-(methylthio)-1-phenyl-2-propen-1-one was added, followed by stirring for 1 hour. Subsequently, 20 ml of acetic acid and 3 g of ammonium acetate were added, and reaction was carried out for 3 hours under reflux, while distilling away tetrahydrofuran. The reaction liquid was neutralized with an aqueous solution of sodium hydroxide, and the neutralized solution was extracted twice with 50 ml portions of ethyl acetate. The extract was dried with anhydrous magnesium sulfate. Ethyl acetate was distilled away under reduced pressure and the residues were recrystallized from isopropanol to give 1.1 g of 2-(3'-chloromethylphenyl)-4-methylthio-6-phenylpyridine. (m.p. 56.8° C.)

reactant | m-chloroacetophenone | 0.69 g | ClC=1C=C(C=CC1)C(C)=O | C8H7ClO
reactant | potassium t-butoxide | 1.1 g | CC(C)([O-])C.[K+]
reactant | 3,3-bis-(methylthio)-1-phenyl-2-propen-1-one | 1 g | CSC(=CC(=O)C1=CC=CC=C1)SC | C11H12OS2
reactant | ammonium acetate | 3 g | C(C)(=O)[O-].[NH4+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-(3'-chloromethylphenyl)-4-methylthio-6-phenylpyridine | 1.1 g | ClCC=1C=C(C=CC1)C1=NC(=CC(=C1)SC)C1=CC=CC=C1 | C19H16ClNS
